US08378118B2
Step-I: synthesis of 4-Methoxy-5-methyl-indan-1-one
To a suspension of 4-Hydroxy-5-methyl-indan-1-one (50.0 gm, 0.308 mole) and Potassium carbonate (127.0 gm, 0.928 mole) in Dimethylformamide (250 ml), Dimethyl sulphate (90 ml, 0.928 mole) was added at 0° C. The reaction mixture was heated at 60-65° C. and stirred for 16 hours. The reaction mixture was poured into water (1 liter) and extracted with Ethylacetate (3×250 ml). The organic layer was dried over Sodium sulphate and distilled under vacuum to give 10.0 gm of crude product which was purified by column chromatography using Hexane as a mobile phase. The collected fractions were distilled under vacuum to give 45.0 gm of desired product as a viscous oil.

reactant | 4-Hydroxy-5-methyl-indan-1-one | 0.308 mole, 50.0 gm | OC1=C2CCC(C2=CC=C1C)=O | C10H10O2
reactant | Potassium carbonate | 0.928 mole, 127.0 gm | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethyl sulphate | 0.928 mole, 90 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 1 liter | O | H2O
solvent | Dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 4-Methoxy-5-methyl-indan-1-one | 45.0 gm, Yield: 82.5% | COC1=C2CCC(C2=CC=C1C)=O | C11H12O2
